US07652049B2
To a solution of tert-butyl{(1S,2R)-2-azido-2-[3,5-bis(trifluoromethyl)phenyl]-1-methylethyl}{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate (21.7 mg, 0.030 mmol) in CH2Cl2 (2 mL) was added TFA (200 μL). The reaction was stirred at room temperature for 1 hour and then diluted with CH2Cl2 (25 mL). The CH2Cl2 solution was washed with 1 N NaOH (15 mL) and the aqueous phase was re-extracted with CH2Cl2 (25 mL). The organic extracts were combined, washed with brine (20 mL), dried over Na2SO4, filtered, and concentrated. Purification of the residue by flash chromatography with 15% EtOAc/hexanes afforded (1R,2S)-1-azido-1-[3,5-bis(trifluoromethyl)phenyl]-N-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)bi phenyl-2-yl]methyl}propan-2-amine. Rf=0.45 (15% EtOAc/hexanes). LCMS=619.2 (M+1)+.

reactant | tert-butyl{(1S,2R)-2-azido-2-[3,5-bis(trifluoromethyl)phenyl]-1-methylethyl}{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate | 0.030 mmol, 21.7 mg | C(C)(C)(C)OC(N(CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)[C@H]([C@@H](C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)N=[N+]=[N-])C)=O | C34H35F9N4O3
reactant | TFA | 200 μL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | (1R,2S)-1-azido-1-[3,5-bis(trifluoromethyl)phenyl]-N-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)bi phenyl-2-yl]methyl}propan-2-amine | N(=[N+]=[N-])[C@@H]([C@H](C)NCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C29H27F9N4O
